US03991071
To 100 ml. of mechanically stirred, refluxing dry ethyl acetate was introduced a steady flow of phosgene gas followed by the dropwise addition of 22.4g. N-2-phenoxyethyl-N-propylamine in 100 ml. dry ethyl acetate over a period of 45 minutes. On completion of the addition, the reaction mixture was boiled under reflux with stirring, whilst continuing the flow of phosgene for a further three hours. The solvent was removed on the steam bath, the last traces being extracted under vacuum to give N-2-phenoxyethyl-N-propylcarbamoyl chloride.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | N-2-phenoxyethyl-N-propylamine | O(C1=CC=CC=C1)CCNCCC | C11H17NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-2-phenoxyethyl-N-propylcarbamoyl chloride | O(C1=CC=CC=C1)CCN(C(=O)Cl)CCC | C12H16ClNO2
